US05366987
The 5-decyl-1H-tetrazole, (4.0 g, 0.019 mol), triethylamine (2.9 mL, 0.021 mol) and ethyl 2-bromophenylacetate (5.09 g, 0.021 mol) were dissolved in 200 mL acetonitrile and heated to reflux for 2 hours. Cooled and concentrated in vacuo to give a yellow oil. Chromatography to separate the regioisomers gave ethyl (±)-5-decyl-α-phenyl-2H-tetrazole-2-acetate as a clear oil (2.40 g, 34%).

reactant | 5-decyl-1H-tetrazole | 0.019 mol, 4.0 g | C(CCCCCCCCC)C1=NN=NN1 | C11H22N4
reactant | triethylamine | 0.021 mol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromophenylacetate | 0.021 mol, 5.09 g | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | ethyl (±)-5-decyl-α-phenyl-2H-tetrazole-2-acetate | 2.40 g, 34% | C(CCCCCCCCC)C=1N=NN(N1)C(C(=O)OCC)C1=CC=CC=C1 | C21H32N4O2
